US05798402
3-(Octadecylthio)propionic acid
To a solution of 86.8 gm (0.25 mole) octadecyl bromide, 29.2 gm (0.275 mole) 3-mercaptopropionic acid and 90.0 gm isopropanol at 80° C. was added 95.0 gm (0.275 mole) 40% aqueous potassium carbonate solution dropwise. The mixture was heated at 80° C. for 8 hours and then cooled to 60° C. After adding 125.0 gm water and 36.8 gm of 30% hydrochloric acid solution, the mixture was slowly heated to 94° C. while distilling aqueous isopropyl alcohol from the reaction. The product separated as an oil from the aqueous phase. It was isolated using a separatory funnel and washed with hot water. Upon cooling, the product solidified as a light tan waxy solid. It was dried in a vacuum oven at 50° C. to yield 91.35 gm (98%)

reactant | octadecyl bromide | 0.25 mole, 86.8 gm | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | 3-mercaptopropionic acid | 0.275 mole, 29.2 gm | SCCC(=O)O | C3H6O2S
reactant | potassium carbonate | 0.275 mole, 95.0 gm | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 36.8 gm | Cl | ClH
solvent | water | 125.0 gm | O | H2O
solvent | isopropanol | 90.0 gm | C(C)(C)O | C3H8O
product | 3-(Octadecylthio)propionic acid | C(CCCCCCCCCCCCCCCCC)SCCC(=O)O | C21H42O2S
